US07566781B2
Methyl 3-fluoropyridin-2-carboxylate
A hexane solution (3 mL) of 2 M trimethylsilyldiazomethane was added to a benzene/methanol mixed solvent (1/1, 12 mL) of 3-fluoropyridine-2-carboxylic acid (250 mg), and stirred at room temperature for 30 minutes. The solvent was evaporated off under reduced pressure from the reaction solution, and the resulting residue was purified through silica gel column chromatography (chloroform/methanol=40/1) to obtain the entitled compound (238 mg).

reactant | hexane | 3 mL | CCCCCC | C6H14
reactant | trimethylsilyldiazomethane | 2 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 3-fluoropyridine-2-carboxylic acid | 250 mg | FC=1C(=NC=CC1)C(=O)O | C6H4FNO2
solvent | ethanol DMF | 12 mL | C(C)O.CN(C)C=O
product | Methyl 3-fluoropyridin-2-carboxylate | 238 mg | FC=1C(=NC=CC1)C(=O)OC | C7H6FNO2
